US07767796B2
Step (a): Diethyl [2-(benzyloxy)ethyl]malonate
The compound was prepared by a modification of the method of Ramalingam et al Tetrahedron, 51, 2875-2894 (1995)]. Thus, sodium (1.20 g) was dissolved in absolute ethanol (25 mL) under argon. Diethyl malonate (14.00 g) was added and the mixture was refluxed for 30 min. Benzyl bromoethyl ether (10 g) was added and the mixture was stirred at reflux for 16 hours. The ethanol was removed by rotary evaporation and the residue was partitioned between ether (100 mL) and water (50 mL). The ethereal layer was washed with water (3×50 mL) and dried over sodium sulfate. The ether was removed by rotary evaporation and the residue was distilled in vacuoo. The fraction distilling at 40-55° C. was discarded (unreacted diethyl malonate). The product distilled at 140-150° C. (1 mm), [lit. bp 138-140 C (1 mm)]. The yield was 12.60 g of colourless oil.

reactant | sodium | 1.20 g | [Na] | Na
reactant | Diethyl malonate | 14.00 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | Benzyl bromoethyl ether | 10 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Diethyl [2-(benzyloxy)ethyl]malonate | C(C1=CC=CC=C1)OCCC(C(=O)OCC)C(=O)OCC | C16H22O5
